US07592373B2
5.3.c. (E)-N-(4′-chlorobiphenyl-4-yl)-3-[4-(cis-3,5-dimethylpiperidin-1-ylmethyl)phenyl]acrylamide
Prepared analogously to Example 1.2.c. from (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide and cis-3,5-dimethylpiperidine. Yield: 30 mg (30% of theory); melting point: 217° C.-218° C.; C29H31ClN2O (M=459.03); calc.: molecular ion peak (M+H)+: 459/461; found: molecular ion peak (M+H)+: 459/461.

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-chloromethylphenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CCl)=O | C22H17Cl2NO
reactant | cis-3,5-dimethylpiperidine | C[C@@H]1CNC[C@@H](C1)C | C7H15N
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-[4-(cis-3,5-dimethylpiperidin-1-ylmethyl)phenyl]acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN1C[C@H](C[C@H](C1)C)C)=O | C29H31ClN2O
